US07074800B1
Sodium hydride (71 mg, 1.8 mmol) was added to 5-hydroxy-2-methylbenzimidazole (204 mg, 0.89 mmol) in anhydrous DMF (2.5 ml) under an argon atmosphere. The mixture was stirred at ambient temperature for 10 minutes. 4-Chloro-6,7-dimethoxyquinazoline (200 mg, 0.89 mmol) was added and the reaction mixture stirred at 95° C. for 2 hours. Upon cooling to ambient temperature the mixture was poured in water and extracted with ethyl acetate. The organic phase was washed with brine, dried (MgSO4), silica was added and the solvent evaporated off. The obtained powder was placed on the top of a disposable silica column (ISOLUTE) and the product eluted off using a gradient of methanol/dichloromethane (3/97, 5/95, 8/92). Evaporation of the solvent gave 6,7-dimethoxy-4-(2-methyl-1H-benzimidazol-6-yloxy)quinazoline (145 mg, 48%).

reactant | Sodium hydride | 1.8 mmol, 71 mg | [H-].[Na+]
reactant | 5-hydroxy-2-methylbenzimidazole | 0.89 mmol, 204 mg | OC1=CC2=C(N=C(N2)C)C=C1 | C8H8N2O
reactant | 4-Chloro-6,7-dimethoxyquinazoline | 0.89 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6,7-dimethoxy-4-(2-methyl-1H-benzimidazol-6-yloxy)quinazoline | 145 mg, 48% | COC=1C=C2C(=NC=NC2=CC1OC)OC=1C=CC2=C(NC(=N2)C)C1 | C18H16N4O3
